US07601843B2
2-[1-(2-tert-Butyldiphenylsiloxyethyl)cyclohexyl]ethyl methanesulfonate
After adding triethylamine (2.20 mL, 15.8 mmol) to a solution of 2-[1-(2-tert-butyldiphenylsiloxyethyl)cyclohexyl]ethanol (3.24 g, 7.80 mmol) in methylene chloride (25 mL), methanesulfonyl chloride (0.91 mL, 11.7 mmol) was added dropwise while cooling on ice. The mixture was stirred at room temperature for 40 minutes, and then saturated aqueous sodium hydrogencarbonate (300 mL) was added, extraction was performed with chloroform and the organic layer was washed with saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered, and then concentrated under reduced pressure to obtain the title compound as a yellow oil (3.97 g).

reactant | triethylamine | 15.8 mmol, 2.20 mL | C(C)N(CC)CC | C6H15N
reactant | 2-[1-(2-tert-butyldiphenylsiloxyethyl)cyclohexyl]ethanol | 7.80 mmol, 3.24 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCO | C26H38O2Si
reactant | methanesulfonyl chloride | 11.7 mmol, 0.91 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | 300 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(2-tert-Butyldiphenylsiloxyethyl)cyclohexyl]ethyl methanesulfonate | 3.97 g | CS(=O)(=O)OCCC1(CCCCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H40O4SSi
